US07750017B2
Preparation of 7-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine
To a solution of 2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino) [1]benzothieno[2,3-d]pyrimidin-7-yl]ethanol (700 mg, 1.46 mmol, 1 equiv) in THF (10 mL) were added triphenylphosphine (0.82 g, 3.12 mmol, 3 equiv) and carbon tetrabromide (1.03 g, 3.12 mmol, 3 equiv). The resulting solution was stirred at rt for 14 h and the solvent was evaporated under reduced pressure. The resulting crude material was purified by flash chromatography eluting with 9:1 CH2Cl2/EtOAc yielding a light yellow solid (688 mg, 1.27 mmol, 87%). 1H-NMR (CDCl3) δ 8.60 (s, 1H), 7.96 (d, J=8.6 Hz, 1H), 7.81 (s, 1H), 7.75 (d, J=2.7 Hz, 1H), 7.50-7.44 (m, 3H), 7.39-7.34 (m, 1H), 7.23 (m, 2H), 7.03 (td, 1H), 7.00 (d, J=9.0 Hz, 1H), 5.12 (s, 2H), 3.68 (t, 2H), 3.36 (t, 2H); LCMS RT=4.26 min, [M+H]+=541/544

reactant | 2-[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino) [1]benzothieno[2,3-d]pyrimidin-7-yl]ethanol | 1.46 mmol, 700 mg, 1 equiv | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)SC1=C2C=CC(=C1)CCO | C25H19ClFN3O2S
reactant | triphenylphosphine | 3.12 mmol, 0.82 g, 3 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 3.12 mmol, 1.03 g, 3 equiv | C(Br)(Br)(Br)Br | CBr4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | 7-(2-bromoethyl)-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine | BrCCC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)S2 | C25H18BrClFN3OS
